US05047163
N-(4-Methoxybenzylidene)-4-carboxybenzenesulfonamide (SULF-8)
In a similar manner to Example 2, 1.28 g (9 mmol) of anisaldehyde, 1.89 g (9 mmol) of 4-carboxybenzenesulfonamide and 20 mg of TsOH in 150 mL of chlorobenzene and under nitrogen were heated for 4.5 hours to yield 2.86 g (96%) of SULF-8 as a white powder: IR (Nujol) 3300-2700 (br), 1693, 1601, 1584, 1155 cm-1 ; 1H NMR (DMSO-d6, TMS ext std)δ 8.91 (s, 1), 8.4-7.7 (m, 8), 3.92 (s, 3).

reactant | anisaldehyde | 9 mmol, 1.28 g | COC=1C=CC(=CC1)C=O | C8H8O2
reactant | 4-carboxybenzenesulfonamide | 9 mmol, 1.89 g | C(=O)(O)C1=CC=C(C=C1)S(=O)(=O)N | C7H7NO4S
reactant | TsOH | 20 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | chlorobenzene | 150 mL | ClC1=CC=CC=C1 | C6H5Cl
product | N-(4-Methoxybenzylidene)-4-carboxybenzenesulfonamide | COC1=CC=C(C=NS(=O)(=O)C2=CC=C(C=C2)C(=O)O)C=C1 | C15H13NO5S
